* d:\analog_vlsi\mixed_signal_projects\3-bit_adc\3-bit_adc.cir

.include buffer_subckt.sub
.include comparator_subckt.sub
.include subthreshold_buffer.sub
.include 8x3_priority_encoder_subckt.sub
X1  lvl7 vin GND lvl7 GND a7 comparator_subckt		
X2  lvl6 vin GND lvl6 GND a6 comparator_subckt		
X3  lvl5 vin GND lvl5 GND a5 comparator_subckt		
X4  lvl4 vin GND lvl4 GND a4 comparator_subckt		
X5  lvl3 vin GND lvl3 GND a3 comparator_subckt		
X6  lvl2 vin GND lvl2 GND a2 comparator_subckt		
X7  lvl1 vin GND lvl1 GND a1 comparator_subckt		
X8  lvl0 vin GND lvl0 GND a0 comparator_subckt		
R1  lvl7 lvl6 100		
v1  lvl7 GND dc 1.8		
R2  lvl6 lvl5 100		
R3  lvl5 lvl4 100		
R4  lvl4 lvl3 100		
R5  lvl3 lvl2 100		
R6  lvl2 lvl1 100		
R7  lvl1 lvl0 100		
R8  lvl0 GND 100		
v2  vin GND sine(1 1 0.125 0 0)		
*U1  a7 plot_v1		
*U2  a6 plot_v1		
*U3  a5 plot_v1		
*U6  a2 plot_v1		
*U4  a4 plot_v1		
*U5  a3 plot_v1		
*U7  a1 plot_v1		
*U8  a0 plot_v1		
*U10  out7 plot_v1		
*U11  out6 plot_v1		
*U16  out5 plot_v1		
*U9  out4 plot_v1		
*U12  out3 plot_v1		
*U13  out2 plot_v1		
*U14  out1 plot_v1		
*U15  out0 plot_v1		
X9  a7 lvl7 GND out7 buffer_subckt		
X10  a6 lvl7 GND out6 buffer_subckt		
X11  a5 lvl7 GND out5 buffer_subckt		
X12  a4 lvl7 GND out4 buffer_subckt		
X13  a3 lvl7 GND out3 buffer_subckt		
X14  a2 lvl7 GND out2 subthreshold_buffer		
X15  a1 lvl7 GND out1 subthreshold_buffer		
X16  a0 lvl7 GND out0 subthreshold_buffer		
X17  out7 out6 out5 out4 out3 out2 out1 out0 adc2 adc1 adc0 8x3_priority_encoder_subckt		
*U17  adc2 plot_v1		
*U18  adc1 plot_v1		
*U19  adc0 plot_v1 
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin)+6 v(lvl7)+6 v(lvl6)+6 v(lvl5)+6 v(lvl4)+6 v(lvl3)+6 v(lvl2)+6 v(lvl1)+6 v(lvl0)+6 v(adc2)+4 v(adc1)+2 v(adc0)
plot v(vin) v(a7) v(a6) v(a5) v(a4) v(a3) v(a2) v(a1) v(a0)
.endc
.end
