* d:\analog_vlsi\esim\fossee\esim\library\subcircuitlibrary\4_and_subckt\4_and_subckt.cir

.include AND_gate.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_x1-pad3_ AND_gate
x2 net-_u1-pad3_ net-_u1-pad4_ net-_x2-pad3_ AND_gate
x3 net-_x1-pad3_ net-_x2-pad3_ net-_u1-pad5_ AND_gate
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
