* Subcircuit 4_OR_subckt
.subckt 4_OR_subckt net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ 
* d:\analog_vlsi\esim\fossee\esim\library\subcircuitlibrary\4_or_subckt\4_or_subckt.cir
.include NAND_subckt.sub
.include NOR-subckt.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_x1-pad3_ NOR-subckt
x2 net-_u1-pad3_ net-_u1-pad4_ net-_x2-pad3_ NOR-subckt
x3 net-_x1-pad3_ net-_x2-pad3_ net-_u1-pad5_ NAND_subckt
* Control Statements

.ends 4_OR_subckt