* Subcircuit 4x2_priority_encoder_subckt
.subckt 4x2_priority_encoder_subckt net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ? net-_u1-pad5_ net-_u1-pad6_ 
* d:\analog_vlsi\esim\fossee\esim\library\subcircuitlibrary\4x2_priority_encoder_subckt\4x2_priority_encoder_subckt.cir
.include 3_OR_subckt.sub
.include inverter_subckt.sub
.include AND_gate.sub
x2 net-_x1-pad2_ net-_u1-pad3_ net-_x2-pad3_ AND_gate
x3 net-_x2-pad3_ net-_u1-pad1_ net-_u1-pad1_ net-_u1-pad6_ 3_OR_subckt
x1 net-_u1-pad2_ net-_x1-pad2_ inverter_subckt
x4 net-_u1-pad1_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad5_ 3_OR_subckt
* Control Statements

.ends 4x2_priority_encoder_subckt