* Subcircuit 8x3_priority_encoder_subckt
.subckt 8x3_priority_encoder_subckt y7 y6 y5 y4 y3 y2 y1 y0 a2 a1 a0 
* d:\Analog_VLSI\eSIM\FOSSEE\eSim\library\SubcircuitLibrary\8x3_priority_encoder_subckt\8x3_priority_encoder_subckt.cir
.include inverter_subckt.sub
.include AND_gate.sub
.include 3_AND_subckt.sub
.include 4_OR_subckt.sub
.include 4_AND_subckt.sub
X9  y2 Net-_X10-Pad2_ Net-_X10-Pad1_ Net-_X12-Pad1_ 3_AND_subckt		
X10  Net-_X10-Pad1_ Net-_X10-Pad2_ y3 Net-_X10-Pad4_ 3_AND_subckt		
X12  Net-_X12-Pad1_ Net-_X10-Pad4_ y6 y7 a1 4_OR_subckt		
X3  y4 Net-_X10-Pad2_ inverter_subckt		
X4  y5 Net-_X10-Pad1_ inverter_subckt		
X6  y1 Net-_X1-Pad2_ Net-_X2-Pad2_ Net-_X5-Pad2_ Net-_X11-Pad1_ 4_AND_subckt		
X7  Net-_X5-Pad2_ Net-_X2-Pad2_ y3 Net-_X11-Pad2_ 3_AND_subckt		
X8  Net-_X5-Pad2_ y5 Net-_X11-Pad3_ AND_gate		
X11  Net-_X11-Pad1_ Net-_X11-Pad2_ Net-_X11-Pad3_ y7 a0 4_OR_subckt		
X1  y2 Net-_X1-Pad2_ inverter_subckt		
X2  y4 Net-_X2-Pad2_ inverter_subckt		
X5  y6 Net-_X5-Pad2_ inverter_subckt		
X13  y4 y5 y6 y7 a2 4_OR_subckt		
* Control Statements

.ends 8x3_priority_encoder_subckt