* Subcircuit NAND_subckt
.subckt NAND_subckt net-_m1-pad2_ net-_m3-pad2_ net-_m1-pad3_ 
* d:\analog_vlsi\esim\fossee\esim\library\subcircuitlibrary\nand_subckt\nand_subckt.cir
.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=360n L=180n M=1
m4 net-_m1-pad1_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=360n L=180n M=1
m2 net-_m1-pad3_ net-_m1-pad2_ net-_m2-pad3_ net-_m2-pad3_ CMOSN W=180n L=180n M=1
m3 net-_m2-pad3_ net-_m3-pad2_ gnd gnd CMOSN W=180n L=180n M=1
v1 net-_m1-pad1_ gnd  dc 1.8
* Control Statements

.ends NAND_subckt