* Subcircuit buffer_subckt
.subckt buffer_subckt net-_m1-pad2_ net-_m2-pad1_ net-_m1-pad3_ net-_m3-pad1_ 
* d:\analog_vlsi\esim\fossee\esim\library\subcircuitlibrary\buffer_subckt\buffer_subckt.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 net-_m2-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m2-pad1_ CMOSP W=180n L=180n M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
m4 net-_m2-pad1_ net-_m1-pad1_ net-_m3-pad1_ net-_m2-pad1_ CMOSP W=180n L=180n M=1
m3 net-_m3-pad1_ net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=180n L=180n M=1
* Control Statements

.ends buffer_subckt